US06579879B2
Step C: 2-Bromomethyl-5-chloro-3-methyl benzofuran.
A solution of 5-chloro-3-methyl benzofuran 2-methanol (18.3 mmol, 3.6 g) in ether (200 mL) was cooled to 0° C. To this was added drop-wise phosphorus tribromide (29.3 mmol, 7.9 g) and then DMF (2 mL). After allowing the reaction mixture to come to room temperature over three hours, the reaction was quenched with ice water (100 mL). The ether layer was collected, dried, filtered and the filtrate was evaporated to a yellow solid: 2-bromomethyl-5-chloro-3-methyl benzofuran (88%, 4.2 g); mp 81° C.-82° C.

reactant | 5-chloro-3-methyl benzofuran 2-methanol | 18.3 mmol, 3.6 g | ClC=1C=CC2=C(C(=C(O2)CO)C)C1 | C10H9ClO2
reactant | phosphorus tribromide | 29.3 mmol, 7.9 g | P(Br)(Br)Br | Br3P
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ether | 200 mL | CCOCC | C4H10O
product | 2-Bromomethyl-5-chloro-3-methyl benzofuran | BrCC=1OC2=C(C1C)C=C(C=C2)Cl | C10H8BrClO
